US05045228
In 10 ml of pyridine was dissolved 2.0 g of 4-acetoxybenzoic acid chloride, and 2.4 g of dodecyl alcohol was added to the solution. Reaction was carried out at room temperature with stirring. The reaction mixture was treated by customary procedures to obtain 2.4 g of dodecyl 4-acetoxybenzoate. In the same manner as described in Referential Example 13, the acetoxy group was selectively isolated to quantitatively obtain dodecyl 4-hydroxybenzoate. This ester was dissolved in 20 ml of pyridine and a solution of 2.2 g of 3-chloro-4-benzyloxybenzoic acid chloride in 20 ml of pyridine was added to the above solution. The mixture was reacted at room temperature with stirring overnight and the reaction mixture was treated by customary procedures to obtain 3.3 g of 4'-dodecyloxycarbonylphenyl 3-chloro-4-benzyloxybenzoate. In the same manner as described in Referential Example 10, this ester was catalytically reduced to obtain 2.7 g of 4'-dodecyloxycarbonylphenyl 3-chloro-4-hydroxybenzoate.

reactant | 4-acetoxybenzoic acid chloride | 2.0 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | dodecyl alcohol | 2.4 g | C(CCCCCCCCCCC)O | C12H26O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | dodecyl 4-acetoxybenzoate | 2.4 g | C(C)(=O)OC1=CC=C(C(=O)OCCCCCCCCCCCC)C=C1 | C21H32O4
